US06677349B1
Using the general method of Example 233 Part B, 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine (4.00 g, 14.9 mmol) was reacted with methanesulfonyl chloride to provide 1.78 g of N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a light yellow solid.

reactant | 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine | 14.9 mmol, 4.00 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCN | C16H20N4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-[4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 1.78 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCNS(=O)(=O)C | C17H22N4O2S
